US06172057B2
2-(4-Fluoro-phenylsulfanyl)-octanoic acid ethyl ester was prepared according to the general method as outlined in example 9. Starting from ethyl 2-bromooctanoate (6.47 g, 24.7 mmol) and 4-fluorothiophenol (3 g, 23.4 mmol). Yield: 6.31 g (90%); clear oil; MS: 299 (M+H)+.

reactant | ethyl 2-bromooctanoate | 24.7 mmol, 6.47 g | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
reactant | 4-fluorothiophenol | 23.4 mmol, 3 g | FC1=CC=C(C=C1)S | C6H5FS
product | 2-(4-Fluoro-phenylsulfanyl)-octanoic acid ethyl ester | C(C)OC(C(CCCCCC)SC1=CC=C(C=C1)F)=O | C16H23FO2S
